US07253192B2
In analogy to the procedure described in example 1D], 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 1C]) was reacted with methanesulfonic acid 5-(3-trifluoromethoxy-phenyl)-pent-4-ynyl ester (example 3D]) to give 2-methyl-2-{2-methyl-4-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynylsulfanyl]-phenoxy}-propionic acid ethyl ester as light brown oil.

reactant | 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | methanesulfonic acid 5-(3-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC=1C=C(C=CC1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
product | 2-methyl-2-{2-methyl-4-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynylsulfanyl]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)SCCCC#CC1=CC(=CC=C1)OC(F)(F)F)C)C)=O | C25H27F3O4S
